US05786350
A mixture of 2,6-lutidine-N-oxide hydrochloride (48 g) and phosphorus oxychloride (110 ml) is heated 6.5 hours at reflux. After cooling the reaction mixture is carefully poured into crushed ice (1 kg). While the temperature is maintained below 15° C., concentrated ammonium hydroxide is added up to reach pH 8. The product that separates is extracted with ethyl ether (2×500 ml) which is dried and distilled off. The residue is dissolved in ethanol (400 ml) and boiled 3 hours with triethylamine (20 ml). After cooling, the solution is evaporated to dryness, treated with water (200 ml) and extracted with ethyl ether (4×150 ml). The combined extracts are dried and the solvent evaporated. The residue after distillation gives 4-chloro-2,6-dimethylpyridine (25 g), b.p. (15 mm)=67°-69° C. To a mixture of sodium (10 g, 30% dispersion in toluene) in anhydrous dimethyoxyethane (40 ml) cooled in an ice-bath and kept under argon, trimethyltin chloride (12.1 g) in dimethoxymethane (6 ml) is added over a one hour period while keeping the temperature at 0° C. The mixture is stirred 2.5 hours at 0° C.; then 4-chloro-2,6-dimethylpyridine (7 g) in dimethoxyethane is slowly dropped into. Stirring is continued for an additional hour then the reaction mixture is allowed to stand overnight at room temperature. The reaction mixture is diluted with ethyl ether (100 ml) and filtered. The solvent is evaporated, the residue dissolved in ethyl ether (100 ml) and filtered again. After evaporation of the solvent the residue is distilled giving 2,6-dimethyl-4-(trimethyl-stannyl)pyridine (8.8 g), b.p. (15 m)=130°-140° C.

reactant | 2,6-lutidine-N-oxide hydrochloride | 48 g | Cl.[N+]=1(C(=CC=CC1C)C)[O-]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | phosphorus oxychloride | 110 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2,6-dimethylpyridine | 25 g | ClC1=CC(=NC(=C1)C)C | C7H8ClN
